US08431695B2
Step 7: Preparation of 7-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid dimethylamide
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(1,2,3,4-tetrahydro-isoquinolin-7-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine (150 mg, 0.3 mmol) in THF (2 mL) was added dimethylcarbamyl chloride (44 mg, 0.4 mmol) and triethylamine (64 mg), and the mixture was heated to 40° C. for 4 hours. The mixture was concentrated in vacuo and the residue was dissolved in methanol and purified by preparative HPLC to provide the title compound, 53 mg (31%). 1H NMR (300 MHz, DMSO-d6) δ 8.60 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 4.4 (m, 2 H), 3.5 (m, 2 H), 2.9 (m, 2 H), 2.8 (s, 6 H); ES-MS m/z 543.47 [M+H]+, HPLC RT (min) 3.16.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(1,2,3,4-tetrahydro-isoquinolin-7-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 0.3 mmol, 150 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C1CCNCC1=C2 | C29H25N7
reactant | dimethylcarbamyl chloride | 0.4 mmol, 44 mg | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 64 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 7-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid dimethylamide | CN(C(=O)N1CC2=CC(=CC=C2CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2)C | C32H30N8O
